US09216996B2
To a 0° C. suspension of lithium aluminum hydride in THF (1M, 15 mL, 15 mmol) was added 2-cyclopropoxy-4-fluorobenzonitrile in 14 mL diethyl ether dropwise. The reaction solution was stirred for 3 hours, gradually warming to room temperature, at which point it was recooled to 0° C., an additional 8 mL lithium aluminum hydride in THF (1M, 8 mmol) added, and stirred for an additional 90 minutes. The reaction was quenched by sequential addition of 0.9 mL water, 0.9 mL 15% NaOH(aq), and 2.7 mL water. The reaction was filtered through celite with diethyl ether rinses, dried over MgSO4, and concentrated to afford 2-cyclopropoxy-4-fluorobenzylamine of sufficient purity to carry on as crude. 1H-NMR (400 MHz, Chloroform-d) δ 7.17-7.08 (m, 1H), 6.96 (dd, J=10.9, 2.4 Hz, 1H), 6.61 (td, J=8.3, 2.5 Hz, 1H), 3.78-3.66 (m, 3H), 0.89-0.72 (m, 4H).

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | THF | 15 mmol, 1M, 15 mL | C1CCOC1 | C4H8O
reactant | 2-cyclopropoxy-4-fluorobenzonitrile | C1(CC1)OC1=C(C#N)C=CC(=C1)F | C10H8FNO
reactant | lithium aluminum hydride | 8 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | THF | 8 mmol, 1M | C1CCOC1 | C4H8O
solvent | diethyl ether | 14 mL | C(C)OCC | C4H10O
product | 2-cyclopropoxy-4-fluorobenzylamine | C1(CC1)OC1=C(CN)C=CC(=C1)F | C10H12FNO
